US04093732
B. [5-[[(2,2-Dichloro-1-methylcyclopropyl)methyl]-sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To a solution of 7.2 g (0.2 mole) of [5-[[(2,2-dichloro-1-methylcyclopropyl)methyl]thio]-1H-benzimidazol-2-yl]carbamic acid, methyl ester in 120 ml of CHCl3 and 120 ml of acetic acid at -15° C there is added 4.2 g (0.02 mole) of 85% m-chloroperoxybenzoic acid and 40 ml of CHCl3 and with stirring is allowed to warm to room temperature. The mixture is stirred for an additional 2 hours. The CHCl3 is removed in vacuo and the remaining solution is neutralized with aqueous NaHCO3. The resulting solid is filtered off, dried, and crystallized from acetonitrile to yield 3.4 g of the title compound, m.p. 231-233° C.

reactant | [5-[[(2,2-dichloro-1-methylcyclopropyl)methyl]thio]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | 0.2 mole, 7.2 g | ClC1(C(C1)(C)CSC1=CC2=C(NC(=N2)NC(OC)=O)C=C1)Cl | C14H15Cl2N3O2S
reactant | m-chloroperoxybenzoic acid | 0.02 mole, 4.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CHCl3 | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | [5-[[(2,2-Dichloro-1-methylcyclopropyl)methyl]-sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | 3.4 g | ClC1(C(C1)(C)CS(=O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)Cl | C14H15Cl2N3O3S
